* SCHEMATIC EXPERIMENT: modified topology, inherited parasitics are provisional
* NGSPICE file created from aimc_converter_macro_active_candidate_flat.ext - technology: sky130A

.subckt aimc_converter_macro_active_candidate_flat vss vdd row_drive sar_comparator_input
+ decision_p decision_n reset eval vss_escape latch_sense_p_ext latch_sense_n_ext
+ iso_tail_ext tail_ext vdd_ext preamp_iso_tail_ext sample_clock regen_bar
X0 preamp_iso_tail_ext sar_comparator_input latch_sense_n_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X1 regen_vdd decision_p decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X2 tail_ext eval vss_escape vss_escape sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X3 latch_sense_p_ext row_drive preamp_iso_tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X4 decision_p latch_sense_p_ext sample_tail vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X5 vdd_ext reset decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X6 sample_tail latch_sense_n_ext decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X7 decision_p decision_n regen_vdd vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X8 tail_ext decision_p decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X9 latch_sense_p_ext row_drive iso_tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X10 iso_tail_ext sar_comparator_input latch_sense_n_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X11 decision_p reset vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X12 decision_p decision_n tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 sar_readout_12b_0.vdd vdd_ext 1.40315f
C1 sar_readout_12b_0.vss iso_tail_ext 0.48163f
C2 vdd_ext shared_converter_mux_0.mux_bus 0.00217f
C3 vdd_ext decision_n 3.79763f
C4 latch_sense_n_ext preamp_iso_tail_ext 0.24555f
C5 row_drive sar_comparator_input 1.48771f
C6 vdd_ext latch_sense_n_ext 0.30062f
C7 sar_comparator_input latch_sense_p_ext 1.58464f
C8 shared_converter_mux_0.vss shared_converter_mux_0.mux_bus 1.56188f
C9 vdd_ext eval 0
C10 row_drive vdd 0.1964f
C11 shared_converter_mux_0.vdd vss 0.2816f
C12 vdd_ext reset 4.43699f
C13 row_dac_10b_0.vdd row_drive 1.1269f
C14 decision_p latch_sense_p_ext 0.18765f
C15 tail_ext latch_sense_p_ext 0.03636f
C16 preamp_iso_tail_ext sar_comparator_input 0.16513f
C17 vdd_ext sar_comparator_input 0.07223f
C18 sar_readout_12b_0.vss row_drive 0.34274f
C19 row_drive shared_converter_mux_0.vdd 0.00246f
C20 row_drive iso_tail_ext 1.46712f
C21 row_dac_10b_0.vdd row_dac_10b_0.vss 0.78467f
C22 iso_tail_ext latch_sense_p_ext 1.45502f
C23 vdd_ext decision_p 3.70527f
C24 vdd_ext tail_ext 1.98786f
C25 row_drive vss 0.22445f
C26 vss latch_sense_p_ext 0.23355f
C27 vdd_ext sar_readout_12b_0.vss 0.95716f
C28 vdd_ext shared_converter_mux_0.vdd 0
C29 vdd_ext iso_tail_ext 0.32939f
C30 row_drive latch_sense_p_ext 5.1638f
C31 latch_sense_n_ext decision_n 0.18765f
C32 vdd_ext vss 0.19458f
C33 decision_n reset 0.31357f
C34 row_dac_10b_0.vss row_drive 1.08575f
C35 row_drive preamp_iso_tail_ext 0.1322f
C36 vdd_ext row_drive 1.78276f
C37 preamp_iso_tail_ext latch_sense_p_ext 0.15428f
C38 vdd_ext latch_sense_p_ext 0.29863f
C39 latch_sense_n_ext sar_comparator_input 0.35707f
C40 row_drive shared_converter_mux_0.vss 0.00246f
C41 decision_p decision_n 2.55956f
C42 tail_ext decision_n 0.48008f
C43 sar_readout_12b_0.vdd sar_readout_12b_0.vss 0.51045f
C44 latch_sense_n_ext tail_ext 0.03636f
C45 sar_readout_12b_0.vdd iso_tail_ext 0.28525f
C46 tail_ext eval 0.37935f
C47 decision_p reset 0.37801f
C48 shared_converter_mux_0.vdd shared_converter_mux_0.mux_bus 1.55306f
C49 tail_ext reset 0.1789f
C50 vdd_ext shared_converter_mux_0.vss 0
C51 latch_sense_n_ext iso_tail_ext 0.24752f
C52 vss shared_converter_mux_0.mux_bus 0.03132f
C53 latch_sense_n_ext vss 0.23355f
C54 tail_ext decision_p 0.48017f
C55 sar_readout_12b_0.vdd row_drive 0.43595f
C56 sar_comparator_input iso_tail_ext 0.19897f
C57 sar_readout_12b_0.vdd latch_sense_p_ext 0.01662f
C58 row_drive shared_converter_mux_0.mux_bus 0.06281f
C59 row_drive latch_sense_n_ext 0.03405f
C60 latch_sense_n_ext latch_sense_p_ext 2.2988f
C61 vss vss_escape 36.2378f
C62 vdd vss_escape 36.7f
C63 preamp_iso_tail_ext vss_escape 38.11665f
C64 iso_tail_ext vss_escape 25.2172f
C65 decision_p vss_escape 14.28772f
C66 tail_ext vss_escape 0.13602p
C67 vdd_ext vss_escape 0.24635p
C68 sar_readout_12b_0.vss vss_escape 1.33858f ; **FLOATING
C69 row_dac_10b_0.vss vss_escape 1.40333f ; **FLOATING
C70 row_dac_10b_0.vdd vss_escape 1.33285f ; **FLOATING
C71 sar_readout_12b_0.vdd vss_escape 1.77464f ; **FLOATING
C72 shared_converter_mux_0.vss vss_escape 1.39454f ; **FLOATING
C73 shared_converter_mux_0.mux_bus vss_escape 2.86922f ; **FLOATING
C74 shared_converter_mux_0.vdd vss_escape 0.95985f ; **FLOATING
Xsample_tail sample_tail sample_clock vss_escape vss_escape sky130_fd_pr__nfet_01v8 w=6 l=0.6
Xregen_header regen_vdd regen_bar vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 w=6 l=0.6
.ends

